US08293909B2
Step 5: Preparation of tert-butyl 3-(3-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)-4-methylbenzoate.
N,N-Dimethylformamide di-tert-butyl acetal (653 μL, 2.72 mmol) was added to a stirring solution of 3-(3-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)-4-methylbenzoic acid (290 mg, 0.680 mmol) in toluene (6.8 mL) at 80° C. The reaction was allowed to stir for 1 hour. The mixture was concentrated to dryness and was purified on silica gel (Biotage, EtOAc/hexanes gradient, fraction collection at λ=254 nm) to give the expected product, tert-butyl 3-(3-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)-4-methylbenzoate (231 mg, 0.479 mmol, 70% yield) consistent by LCMS. LC-MS retention time: 2.34 min; m/z (MH+): 482. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5 u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | N,N-Dimethylformamide di-tert-butyl acetal | 2.72 mmol, 653 μL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | 3-(3-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)-4-methylbenzoic acid | 0.680 mmol, 290 mg | BrC1=C(OC2=NC=C(C=C21)C=2C=C(C(=O)O)C=CC2C)C2=CC=C(C=C2)F | C21H13BrFNO3
solvent | toluene | 6.8 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 3-(3-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)-4-methylbenzoate | 0.479 mmol, 231 mg, 70% yield | BrC1=C(OC2=NC=C(C=C21)C=2C=C(C(=O)OC(C)(C)C)C=CC2C)C2=CC=C(C=C2)F | C25H21BrFNO3
